US05389682
[S-(R*,R*)] and [R-(R*,R*)]-N-cyclohexyl-N'-[2-[[[(4-nitrophenyl)amino]carbonyl]amino]-1,2-diphenylethyl]urea
To a solution of [R-(R*,R*)] and [S-(R*,R*)]N-(2-amino-1,2-diphenylethyl)-N'-(4-nitrophenyl)urea (0.1 g, 0.27 mmol) in dichloromethane (10 mL) is added cyclohexyl isocyanate (0.03 g, 0.27 mmol) in one portion. The resulting mixture is stirred 1 hour at room temperature before filtering off the solid product. The product is suspended in hot diethyl ether, filtered, and dried in vacuo at 114° C. for 4 hours, mp 244°-245° C. IR (KBr): 3337, 2931, 1639, 1559, 1507, 1330, 700 cm-1 ; NMR (DMS-d6): 0.97-1.66 (m, 10H), 4.94 (m, 2H), 5.94 (d, 1H, J=7.5 Hz), 6.42 (d, 1H, J=7.5 Hz), 7.03-7.19 (m, 12H), 7.60 (d, 2H, J=9.2 Hz), 8.12 (d, 2H, J=9.2 Hz), 9.51 (s, 1H). Analysis calculated for C 28 H31N5O4 : C, 67.05; H, 6.23; N, 13.96. Found: C, 66.74; H, 6.22; N, 13.98.

reactant | N-(2-amino-1,2-diphenylethyl)-N'-(4-nitrophenyl)urea | 0.27 mmol, 0.1 g | NC(C(C1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C21H20N4O3
reactant | cyclohexyl isocyanate | 0.27 mmol, 0.03 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-cyclohexyl-N'-[2-[[[(4-nitrophenyl)amino]carbonyl]amino]-1,2-diphenylethyl]urea | C1(CCCCC1)NC(=O)NC(C(C1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C28H31N5O4
